US08071584B2
3-(2,2-Dimethyl-1,1-dioxidotetrahydro-2H-thiopyran-4-yl)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indole-7-carboxamide (75 mg, 0.17 mmol), 5-bromo-2-thienyl cyclopentyl sulfone (60 mg, 0.20 mmol), PdCl2(dppf)-CH2Cl2 adduct (20 mg, 0.024 mmol, 0.15 eq), and potassium carbonate (100 mg, 0.72 mmol, 4.3 eq) were diluted in a mixture of 1,4-dioxane (3 mL) and water (1.5 mL) in a 2-5 mL microwave tube. The mixture was degassed by bubbling argon through for 5 minutes, then was heated in a biotage microwave at 100° C. for 5 minutes. The crude reaction mixture was filtered through a thiol SPE cartridge (polymer labs) to remove palladium, and was concentrated. The residue was re-diluted in ˜3 mL of dmso, and filtered through a syringe filter. The crude product was purified by ammonium hydroxide Gilson HPLC, and the desired fractions were evaporated to afford 5-[5-(cyclopentylsulfonyl)-2-thienyl]-3-(2,2-dimethyl-1,1-dioxidotetrahydro-2H-thiopyran-4-yl)-1H-indole-7-carboxamide as an off white solid (22.4 mg, 24%).

reactant | 3-(2,2-Dimethyl-1,1-dioxidotetrahydro-2H-thiopyran-4-yl)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indole-7-carboxamide | 0.17 mmol, 75 mg | CC1(S(CCC(C1)C1=CNC2=C(C=C(C=C12)B1OC(C(O1)(C)C)(C)C)C(=O)N)(=O)=O)C | C22H31BN2O5S
reactant | 5-bromo-2-thienyl cyclopentyl sulfone | 0.20 mmol, 60 mg | C1(CCCC1)S(=O)(=O)C=1SC(=CC1)Br | C9H11BrO2S2
reactant | potassium carbonate | 0.72 mmol, 100 mg, 4.3 eq | C([O-])([O-])=O.[K+].[K+]
solvent | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | water | 1.5 mL | O | H2O
catalyst | PdCl2(dppf) CH2Cl2 | 0.024 mmol, 20 mg, 0.15 eq | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | 5-[5-(cyclopentylsulfonyl)-2-thienyl]-3-(2,2-dimethyl-1,1-dioxidotetrahydro-2H-thiopyran-4-yl)-1H-indole-7-carboxamide | C1(CCCC1)S(=O)(=O)C1=CC=C(S1)C=1C=C2C(=CNC2=C(C1)C(=O)N)C1CC(S(CC1)(=O)=O)(C)C | C25H30N2O5S3
